US07071201B2
(38-1) 1-(2-Hydroxyethyl)-4-bromopyrazole
1-(2-Benzyloxyethyl)-4-bromopyrazole (1.078 g) was dissolved in ethanol (20 ml). After adding conc. hydrochloric acid (15 ml), the resultant mixture was stirred at 80° C. for 10 hr. After allowing to cool, it was concentrated under reduced pressure followed by the addition of a saturated aqueous solution of sodium bicarbonate. Then the resultant mixture was extracted with ethyl acetate and the organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (525 mg) as a colorless oil (yield: 71%).

reactant | 1-(2-Benzyloxyethyl)-4-bromopyrazole | 1.078 g | C(C1=CC=CC=C1)OCCN1N=CC(=C1)Br | C12H13BrN2O
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-Hydroxyethyl)-4-bromopyrazole | 525 mg, yield: 71% | OCCN1N=CC(=C1)Br | C5H7BrN2O
